US04127669
3-(1H-Tetrazol-5-ylmethoxy)-4H-1-benzopyran-4-one
A mixture of [(4-oxo-4H-1-benzopyran-3-yl)oxy]acetonitrile (2.0 g, 0.01 mole), sodium azide (0.715 g, 0.011 mole) and ammonium chloride (0.56 g, 0.012 mole) in DMF (10 ml) is heated at 125° C. for 7 hrs. under nitrogen. The reaction is cooled overnight and then poured into excess cold water. The aqueous is acidified with 5N hydrochloric acid and the insoluble product is filtered, washed with fresh water and sucked dry. Recrystallization from absolute ethanol gives beige colored crystals (1.45 g, 60%), mp 194°-196° C.

reactant | [(4-oxo-4H-1-benzopyran-3-yl)oxy]acetonitrile | 0.01 mole, 2.0 g | O=C1C(=COC2=C1C=CC=C2)OCC#N | C11H7NO3
reactant | sodium azide | 0.011 mole, 0.715 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.012 mole, 0.56 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(1H-Tetrazol-5-ylmethoxy)-4H-1-benzopyran-4-one | 1.45 g, 60% | N1N=NN=C1COC1=COC2=C(C1=O)C=CC=C2 | C11H8N4O3
